US06458796B1
5-Amino-1-[1-(1-hydroxy-ethyl)-4-phenyl-butyl]-1H-[1,2,3]triazole-4-carboxamide
At 0° C., 1.19 g(18.3 mmol) of sodium azide in a mixture of 3 ml of water and 5 ml of dichloromethane are mixed dropwise with 1.046 g (mmol) of trifluoromethanesulphonic anhydride, and the resulting mixture is stirred at 0° C. for 2 hours. The phases are separated, the aqueous phase is extracted twice with dichloromethane and the combined organic phases are washed with saturated sodium bicarbonate solution. 386 mg (2 mmol) of 3-amino-6-phenyl-hexan-2-ol are dissolved in 2 ml of methanol and admixed successively with 10 mg of copper sulphate and 10 mg of potassium carbonate. The solution of the triflyl azide in dichloromethane is added and the mixture is made up to a total volume of 20 ml using dichloromethane. The mixture is stirred at room temperature for 15 hours, extracted with dilute ammonia solution and with EDTA solution, dried over sodium sulphate and concentrated using a rotary evaporator. This gives 331 mg of an oil which is dissolved in 1 ml of DMSO and admixed with a solution of 75 mg (3.5 mmol) of sodium in 1 ml of ethanol. 197 mg (2.34 mmol) of cyanoacetamide and, after 30 minutes, 2 ml of ethanol are added, and the mixture is stirred at room temperature for 15 hours. The mixture is poured into 30 ml of ice-water and, after addition of 3 ml of 1N HCl, extracted three times with dichloromethane and once with ethyl acetate. Chromatographic purification gives 72 mg (12%) of a foam.

reactant | sodium azide | 18.3 mmol, 1.19 g | [N-]=[N+]=[N-].[Na+]
reactant | trifluoromethanesulphonic anhydride | 1.046 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 3-amino-6-phenyl-hexan-2-ol | 2 mmol, 386 mg | NC(C(C)O)CCCC1=CC=CC=C1 | C12H19NO
reactant | potassium carbonate | 10 mg | C([O-])([O-])=O.[K+].[K+]
reactant | triflyl azide | S(=O)(=O)(C(F)(F)F)N=[N+]=[N-] | CF3N3O2S
reactant | sodium | 3.5 mmol, 75 mg | [Na] | Na
reactant | cyanoacetamide | 2.34 mmol, 197 mg | C(#N)CC(=O)N | C3H4N2O
reactant | HCl | 1N, 3 ml | Cl | ClH
solvent | water | 3 ml | O | H2O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | methanol | 2 ml | CO | CH4O
solvent | ethanol | 1 ml | C(C)O | C2H6O
catalyst | copper sulphate | 10 mg | S(=O)(=O)([O-])[O-].[Cu+2]
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 5-Amino-1-[1-(1-hydroxy-ethyl)-4-phenyl-butyl]-1H-[1,2,3]triazole-4-carboxamide | 72 mg, 12% | NC1=C(N=NN1C(CCCC1=CC=CC=C1)C(C)O)C(=O)N | C15H21N5O2
